US06432955B1
85h. 1-amino-7-(aminomethyl)isoquinoline
Liquid ammonia (210 mL) was added to a mixture of 4.2 g of 1-amino-isoquinoline-7-carbonitrile and 4.0 g of Raney-Ni in 210 mL of methanol in a steel vessel Hydrogen was pressed upon until an initial pressure of 100 atm. was obtained. This mixture was reacted for 16 hours at ambient temperature, the catalyst subsequently removed by filtration and the solvent pumped off. The residue was purified by silica chromatography (methanol/ammonia saturated methanol=85:15, 8:2) yielding 1.1 g (25%) of the title compound as a light yellow solid. M.p. 114-117° C.

reactant | ammonia | 210 mL | N | H3N
reactant | 1-amino-isoquinoline-7-carbonitrile | 4.2 g | NC1=NC=CC2=CC=C(C=C12)C#N | C10H7N3
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 210 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 1-amino-7-(aminomethyl)isoquinoline | 1.1 g, 25% | NC1=NC=CC2=CC=C(C=C12)CN | C10H11N3
